US09034866B2
10-bromo-2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-3-carboxylic acid was reacted with tetrahydro-pyran-4-ylamine hydrochloride similarly to as described in example 2 with non-critical modifications to afford 117 mg (63%) 10-bromo-N3-tetrahydropyran-4-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide. 10-bromo-N3-tetrahydropyran-4-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford 14 mg (11%) of 10-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-N3-tetrahydropyran-4-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide.

reactant | 10-bromo-2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-3-carboxylic acid | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)O)C1 | C13H10BrN3O4
reactant | tetrahydro-pyran-4-ylamine hydrochloride | Cl.O1CCC(CC1)N
product | 10-bromo-N3-tetrahydropyran-4-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 117 mg, 63% | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CCOCC3)C1 | C18H19BrN4O4
